US07345067B2
16.3) (2,6-Dimethyl-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester
The title compound was prepared in analogy to example 15.4 from the above prepared (2,6-dimethyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester, but using methyl iodide as electrophile instead of ethyl iodide, as off-white solid, MS: 477.5 (MH)+.

reactant | (2,6-dimethyl-4-{[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1C)NCC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O | C24H25F3N2O4
reactant | methyl iodide | CI | CH3I
reactant | ethyl iodide | C(C)I | C2H5I
product | (2,6-Dimethyl-4-{methyl-[4-methyl-2-(4-trifluoromethyl-phenyl)-oxazol-5-ylmethyl]-amino}-phenoxy)-acetic acid ethyl ester | C(C)OC(COC1=C(C=C(C=C1C)N(CC1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C)C)C)=O | C25H27F3N2O4
